US07592373B2
N-(4′-chlorobiphenyl-4-yl)-3-[4-(4-methylpiperidin-1-ylmethyl)phenyl]propionamide
A reaction mixture of 80 mg (0.18 mmol) of (E)-N-(4′-chlorobiphenyl-4-yl)-3-[4-(4-methylpiperidin-1-ylmethyl)phenyl]acrylamide and 20 mg of Raney nickel in 15 mL of ethyl acetate and 15 mL of methanol is hydrogenated for 1 hour at 50 psi and ambient temperature. The catalyst is filtered off, the filtrate is evaporated to dryness and stirred with diisopropylether. Yield: 40 mg (49.7% of theory); melting point: 150° C.-151° C.; C28H31ClN2O (M=447.02); calc.: molecular ion peak (M+H)+: 447/449; found: molecular ion peak (M+H)+: 447/449; Rf value: 0.5 (silica gel, dichloromethane/methanol (10:1)).

reactant | (E)-N-(4′-chlorobiphenyl-4-yl)-3-[4-(4-methylpiperidin-1-ylmethyl)phenyl]acrylamide | 0.18 mmol, 80 mg | ClC1=CC=C(C=C1)C1=CC=C(C=C1)NC(\C=C\C1=CC=C(C=C1)CN1CCC(CC1)C)=O | C28H29ClN2O
catalyst | Raney nickel | 20 mg | [Ni] | Ni
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 15 mL | CO | CH4O
product | N-(4′-chlorobiphenyl-4-yl)-3-[4-(4-methylpiperidin-1-ylmethyl)phenyl]propionamide | ClC1=CC=C(C=C1)C1=CC=C(C=C1)NC(CCC1=CC=C(C=C1)CN1CCC(CC1)C)=O | C28H31ClN2O
